US05032165
Preparation of 5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-N-methyl-2,4-dichlorobenzenesulfonamide (compound No. 164)
A solution of 4-chloro-3-(5-chlorosulfonyl-2,4-dichlorophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole (0.43 g, 1 mmole) in 2 ml tetrahydrofuran was added dropwise to a 40% aqueous methylamine solution dissolved in 20 ml tetrahydrofuran to react the pyrazole derivative with methylamine. After the addition was finished, the reaction was continued further for 30 minutes at room temperature. Then ethyl acetate was added to the reaction product solution to extract the objective product. The extract solution was washed with water, dehydrated, and evaporated to dryness, giving the title compound (0.42 g) in paste form, yield 100%.

reactant | 4-chloro-3-(5-chlorosulfonyl-2,4-dichlorophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | 1 mmole, 0.43 g | ClC=1C(=NN(C1OC(F)F)C)C1=C(C=C(C(=C1)S(=O)(=O)Cl)Cl)Cl | C11H6Cl4F2N2O3S
reactant | methylamine | CN | CH5N
reactant | pyrazole | N1N=CC=C1 | C3H4N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-N-methyl-2,4-dichlorobenzenesulfonamide | 0.42 g, yield 100% | ClC=1C(=NN(C1OC(F)F)C)C=1C(=CC(=C(C1)S(=O)(=O)NC)Cl)Cl | C12H10Cl3F2N3O3S
